US07763731B2
2-(2,5-Dimethyl-pyrrol-1-yl)-6-phenyl-pyridine
2-Chloro-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine (0.097 g, 0.47 mmol) prepared as described in Example 8a was reacted for 24 h with tributyl-phenyl-stannane (0.185 mL, 0.564 mmol) under nitrogen in toluene at 75° C. in the presence of 2 mole % tetrakis(triphenylphosphine) palladium(0). The volatiles were subsequently removed under reduced pressure to yield the crude product, which was purified by flash chromatography on silica gel to give the title compound (0.103 g, 88%).

reactant | 2-Chloro-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine | 0.47 mmol, 0.097 g | ClC1=NC(=CC=C1)N1C(=CC=C1C)C | C11H11ClN2
reactant | tributyl-phenyl-stannane | 0.564 mmol, 0.185 mL | C(CCC)[Sn](C1=CC=CC=C1)(CCCC)CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium(0) | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(2,5-Dimethyl-pyrrol-1-yl)-6-phenyl-pyridine | 0.103 g, 88% | CC=1N(C(=CC1)C)C1=NC(=CC=C1)C1=CC=CC=C1 | C17H16N2
